************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vsel0 sel0 0 PWL 0n 0 80n 0 81n VCC 90n VCC 91n 0 170n 
+0 171n VCC 180n VCC 181n 0 190n 0 191n VCC 
Vrsel2 rsel2 0 PWL 0n 0 130n 0 131n VCC 
Vsel1 sel1 0 PWL 0n VCC 80n VCC 81n 0 180n 0 181n VCC 
Vvres vres 0 PWL 0n VCC 
Vvss vss 0 PWL 0n 0 
Ven_counter en_counter 0 PWL 0n VCC 
Vvcc vcc 0 PWL 0n VCC 
Ven_ring en_ring 0 PWL 0n VCC 
Vrsel0 rsel0 0 PWL 0n 0 100n 0 101n VCC 110n VCC 111n 0 120n 
+0 121n VCC 130n VCC 131n 0 140n 0 141n VCC 150n VCC 151n 0 
+160n 0 161n VCC 
Vrsel1 rsel1 0 PWL 0n 0 110n 0 111n VCC 130n VCC 131n 0 150n 
+0 151n VCC 

