************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vsel0 sel0 0 PWL 0n 0 60n 0 61n VCC 70n VCC 71n 0 150n 
+0 151n VCC 160n VCC 161n 0 170n 0 171n VCC 
Vrsel2 rsel2 0 PWL 0n 0 110n 0 111n VCC 
Vsel1 sel1 0 PWL 0n VCC 60n VCC 61n 0 160n 0 161n VCC 
Vvres vres 0 PWL 0n VCC 
Vvss vss 0 PWL 0n 0 
Ven_counter en_counter 0 PWL 0n VCC 
Vvcc vcc 0 PWL 0n VCC 
Ven_ring en_ring 0 PWL 0n VCC 
Vrsel0 rsel0 0 PWL 0n 0 80n 0 81n VCC 90n VCC 91n 0 100n 
+0 101n VCC 110n VCC 111n 0 120n 0 121n VCC 130n VCC 131n 0 
+140n 0 141n VCC 
Vrsel1 rsel1 0 PWL 0n 0 90n 0 91n VCC 110n VCC 111n 0 130n 
+0 131n VCC 

